US06376490B1
6,7-Dichloro-2,3-dimethoxyquinoxaline (25 g, 0.096 mol) was added, portionwise, to fuming nitric acid (0.113 L) which had been pre-cooled to −5° C. The solution was allowed to warm to 10° C. and stirring continued for 2 hours. The solution was then poured into an ice/water mixture (0.5 L). The slurry was filtered and the solid was washed with water and isopropanol (0.05 L) to give 6,7-dichloro-2,3-dimethoxy-5-nitroquinoxaline(27 g, 92%) as a beige solid. m.p. 184-186° C.

reactant | 6,7-Dichloro-2,3-dimethoxyquinoxaline | 0.096 mol, 25 g | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)OC | C10H8Cl2N2O2
reactant | nitric acid | 0.113 L | [N+](=O)(O)[O-] | HNO3
product | 6,7-dichloro-2,3-dimethoxy-5-nitroquinoxaline | 27 g, 92% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)[N+](=O)[O-] | C10H7Cl2N3O4
